US06716851B2
4-(2-Methoxy-5-nitroanilino)-2-(2-pyrazinyl)-6-trifluoromethylpyrimidine
The title compound was prepared from 4-chloro-2-(2-pyrazinyl)-6-trifluoromethylpyrimidine (40 mg, 0.153 mmol) and 2-methoxy-5-nitroaniline (39 mg, 0.230 mmol), similar to Example 180 and was isolated as a yellow solid (30 mg, 51%). 1H NMR (CDCl3): 9.760 (d, J=1.5 Hz, 1H), 8.86 (dd, J=1.8, 2.7 Hz, 1H), 8.74 (d, J=2.4 Hz, 1H), 8.10 (dd, J=2.7, 9.0 Hz, 1H), 7.34 (s, 1H), 7.07 (d, J=9.0 Hz, 1H), 4.08 (s, 3H).

reactant | 4-chloro-2-(2-pyrazinyl)-6-trifluoromethylpyrimidine | 0.153 mmol, 40 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C1=NC=CN=C1 | C9H4ClF3N4
reactant | 2-methoxy-5-nitroaniline | 0.230 mmol, 39 mg | COC1=C(N)C=C(C=C1)[N+](=O)[O-] | C7H8N2O3
product | 4-(2-Methoxy-5-nitroanilino)-2-(2-pyrazinyl)-6-trifluoromethylpyrimidine | COC1=C(NC2=NC(=NC(=C2)C(F)(F)F)C2=NC=CN=C2)C=C(C=C1)[N+](=O)[O-] | C16H11F3N6O3
